US06838463B2
In 5 ml of tetrahydrofuran was suspended 0.46 g of potassium t-butoxide, to which 0.56 g of 2-chloro-6-fluorobenzylcyanide of formula and 0.5 g of 4-chloro-6-(2-butynyloxy)pyrimidine were added, followed by stirring at room temperature 8 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined and washed with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 0.25 g of 4-(α-cyano-2-chloro-6-fluorobenzyl)-6-(2-butynyloxy)pyrimidine (the present compound (84)).

reactant | potassium t-butoxide | 0.46 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-6-fluorobenzylcyanide | 0.56 g | ClC1=C(CC#N)C(=CC=C1)F | C8H5ClFN
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 0.5 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(α-cyano-2-chloro-6-fluorobenzyl)-6-(2-butynyloxy)pyrimidine | 0.25 g | C(#N)C(C1=C(C=CC=C1F)Cl)C1=NC=NC(=C1)OCC#CC | C16H11ClFN3O
